US09388195B2
B) Production of 1,4-dioxa-7-azaspiro[4.4]nonane
To a solution of benzyl 1,4-dioxa-7-azaspiro[4.4]nonane-7-carboxylate (1.1 g) in methanol (30 mL) was added palladium(II) hydroxide (100 mg) at room temperature. The mixture was stirred for 2.5 hr under a hydrogen atmosphere (0.4 MPa). Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (540 mg) as a dark orange liquid.

reactant | benzyl 1,4-dioxa-7-azaspiro[4.4]nonane-7-carboxylate | 1.1 g | O1CCOC12CN(CC2)C(=O)OCC2=CC=CC=C2 | C14H17NO4
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium(II) hydroxide | 100 mg | [OH-].[Pd+2].[OH-]
product | 1,4-dioxa-7-azaspiro[4.4]nonane | 540 mg | O1CCOC12CNCC2 | C6H11NO2
